US06734200B1
t-Butoxycarbonylaminopyrazine
Di-(t-butoxycarbonyl)aminopyrazine (2.1 g, 7.1 mM) in methanol (50 ml) under nitrogen, was treated with aqueous sodium hydroxide (2.5 M, 2.84 ml, 7.1 mM), and stirred at ambient temperature for 2 hours. The mixture was neutralised by the addition of water (25 ml) and solid carbon dioxide, then methanol evaporated. The residual aqueous solution was extracted with dichloromethane (2×20 ml), the extracts washed with brine (20 ml) and evaporated. The resulting solid was triturated with isohexane (50 ml) to give the title product as a white solid (1.03 g). NMR (DMSO-d6) δ: 1.47 (s, 9H); 8.25 (d, 1H); 8.30 (d, 1H); 9.03 (s, 1H); 10.14 (s, 1H). MS (ESP): 196 (MH+) for C9H13N13O2

reactant | Di-(t-butoxycarbonyl)aminopyrazine | 7.1 mM, 2.1 g | C(C)(C)(C)OC(=O)N(C(=O)OC(C)(C)C)C1=NC=CN=C1 | C14H21N3O4
reactant | sodium hydroxide | 2.5 M, 2.84 ml | [OH-].[Na+]
reactant | water | 25 ml | O | H2O
reactant | carbon dioxide | C(=O)=O | CO2
solvent | methanol | 50 ml | CO | CH4O
product | t-Butoxycarbonylaminopyrazine | 1.03 g | C(C)(C)(C)OC(=O)NC1=NC=CN=C1 | C9H13N3O2
